US07176242B2
To a solution of 1-butylisoquinoline-7-carboxylic acid (79 mg, 0.26 mmol) and N,N-diisopropylethylamine (150 μL, 0.86 mmol) in methylene chloride (1.8 mL) was added HBTU (100 mg, 0.264 mmol) and the reaction mixture stirred for 0.5 h. To this was added a solution of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (107 mg, 0.264 mmol) in methylene chloride (1.8 mL) containing N,N-diisopropylethylamine (150 μL, 0.86 mmol). The reaction mixture was then stirred at room temperature overnight. The reaction mixture was diluted with methylene chloride, washed with saturated sodium bicarbonate, and saturated sodium chloride. The organic layer was then dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 93:7 chloroform/methanol) gave 1-butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}isoquinoline-7-carboxamide (103 mg): mp 109–110° C.; ESI MS m/z 546 [M+H]+.

reactant | 1-butylisoquinoline-7-carboxylic acid | 0.26 mmol, 79 mg | C(CCC)C1=NC=CC2=CC=C(C=C12)C(=O)O | C14H15NO2
reactant | N,N-diisopropylethylamine | 0.86 mmol, 150 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.264 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 0.264 mmol, 107 mg | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | N,N-diisopropylethylamine | 0.86 mmol, 150 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 1.8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.8 mL | C(Cl)Cl | CH2Cl2
product | 1-butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}isoquinoline-7-carboxamide | 103 mg | C(CCC)C1=NC=CC2=CC=C(C=C12)C(=O)N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C33H37F2N3O2
